US07592342B2
Preparation of 1,1-dimethylethyl 3-oxo-4-(7-{5-[(phenylsulfonyl)amino]-3-pyridinyl}-2-quinoxalinyl)-1-piperazinecarboxylate
A slurry of 1,1-dimethylethyl 4-(7-bromo-2-quinoxalinyl)-3-oxo-1-piperazinecarboxylate (1.30 mmol), N-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinyl]benzenesulfonamide (1.35 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane complex (1:1) (0.10 mmol), in 1,4-dioxane (6 ml) and saturated sodium bicarbonate solution (2 ml) was stirred at 100° C. for 1 hour. The reaction was cooled to ambient temperature, separated the organic layer and purified directly on silica by column chromatography (80% ethyl acetate/hexanes). The desired fractions were combined and concentrated to give the title compound (150 mg, 22%) as a tan solid. MS(ES)+ m/e 561.1 [M+H]+.

reactant | 1,1-dimethylethyl 4-(7-bromo-2-quinoxalinyl)-3-oxo-1-piperazinecarboxylate | 1.30 mmol | BrC1=CC=C2N=CC(=NC2=C1)N1C(CN(CC1)C(=O)OC(C)(C)C)=O | C17H19BrN4O3
reactant | N-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinyl]benzenesulfonamide | 1.35 mmol | CC1(OB(OC1(C)C)C=1C=C(C=NC1)NS(=O)(=O)C1=CC=CC=C1)C | C17H21BN2O4S
reactant | sodium bicarbonate | 2 ml | C([O-])(O)=O.[Na+]
solvent | 1,4-dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | 1,1-dimethylethyl 3-oxo-4-(7-{5-[(phenylsulfonyl)amino]-3-pyridinyl}-2-quinoxalinyl)-1-piperazinecarboxylate | 150 mg, 22% | O=C1CN(CCN1C1=NC2=CC(=CC=C2N=C1)C=1C=NC=C(C1)NS(=O)(=O)C1=CC=CC=C1)C(=O)OC(C)(C)C | C28H28N6O5S
